US07855230B2
(±)-2-(3-Diisopropylamino-1-phenylpropyl)-4-hydroxymethylphenol
A solution of (±)-N,N-diisopropyl-3-(2-methoxy-5-methoxy-carbonylphenyl)-3-phenylpropionamide (0.79 g, 2.0 mmol) in 20 ml of tetrahydrofuran was cooled to 5° C. and then treated with 2.5 ml of 1M LiAlH4/THF. After stirring at room temperature for 18 hrs. finely powdered aluminium chloride (0.3 g) was added and stirring was continued for additional 4 hrs. The reaction was quenched at 5° C. by the dropwise addition of water followed by aqueous sodium hydroxide solution. The mixture was diluted with diethyl ether (150 ml) and the organic phase was washed with half saturated brine, dried (sodium sulphate), and evaporated to dryness to give the title compound as a solid off-white foam. Tlc (2) 0.16, m.p. 48-51° C. A portion of the material was converted into the hydrochloride (ethereal hydrochloric acid), m.p. 186-189° C. (dec.).

reactant | (±)-N,N-diisopropyl-3-(2-methoxy-5-methoxy-carbonylphenyl)-3-phenylpropionamide | 2.0 mmol, 0.79 g | C(C)(C)N(C(CC(C1=CC=CC=C1)C=1C(C(C=C(C1)OC)=C=O)OC)=O)C(C)C | C24H31NO4
reactant | LiAlH4 THF | 1M, 2.5 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
reactant | aluminium chloride | 0.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (±)-2-(3-Diisopropylamino-1-phenylpropyl)-4-hydroxymethylphenol | C(C)(C)N(CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)CO)O)C(C)C | C22H31NO2
